US08383644B2
(S)-2-{[(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid
The title compound (110 mg) was prepared from (3S,8S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid and (S)-2-amino-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester dihydrochloride according to General Procedures L and B. LCMS (m/z): 857. 1H NMR (400 MHz, acetone-d6): 8.18 (d, 1H), 7.86 (d, 1H), 7.59 (d, 1H), 7.49 (d, 1H), 7.36 (dd, 1H), 7.23-7.18 (m, 4H), 7.15 (m, 1H), 7.11-7.07 (m, 4H), 6.86 (d, 1H), 6.78-6.72 (m, 4H), 6.61 (s, 1H), 6.52 (s, 1H), 5.03 (s, 2H), 4.93 (dd, 1H), 4.72 (m, 1H), 4.14 (dd, 1H), 3.67 (dd, 1H), 3.54 (dd, 1H), 3.45 (d, 1H), 3.39 (dd, 1H), 3.23 (d, 1H), 3.03 (dd, 1H), 2.89-2.79 (m, 2H), 2.66 (dd, 1H), 2.38 (s, 3H), 2.02 (s, 3H), 1.87-1.75 (m, 1H), 1.72-1.61 (m, 1H), 0.48 (t, 3H).

reactant | (3S,8S)-3-[4-(3,4-dichloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carboxylic acid | ClC=1C=C(COC2=CC=C(C=C2)[C@@H]2OC=3C(=CC=4C[C@H](N(CC4C3)[C@@H](CC)C3=CC=CC=C3)C(=O)O)OC2)C=CC1Cl | C34H31Cl2NO5
reactant | (S)-2-amino-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid methyl ester dihydrochloride | Cl.Cl.COC([C@H](CC1=CC=C(C=C1)C1=C(C(=NC=C1)C)C)N)=O
product | (S)-2-{[(3S,8S)-3-[4-(3,4-Dichloro-benzyloxy)-phenyl]-7-((S)-1-phenyl-propyl)-2,3,6,7,8,9-hexahydro-[1,4]dioxino[2,3-g]isoquinoline-8-carbonyl]-amino}-3-[4-(2,3-dimethyl-pyridin-4-yl)-phenyl]-propionic acid | 110 mg | ClC=1C=C(COC2=CC=C(C=C2)[C@@H]2OC=3C(=CC=4C[C@H](N(CC4C3)[C@@H](CC)C3=CC=CC=C3)C(=O)N[C@H](C(=O)O)CC3=CC=C(C=C3)C3=C(C(=NC=C3)C)C)OC2)C=CC1Cl | C50H47Cl2N3O6
